US07449460B2
Following the procedure of Example 11, a mixture of 150 mg (0.39 mmol) of 7-fluoro-6-methoxy-4-[4-(pyridin-3-yloxy)-phenylamino]-quinoline-3-carbonitrile and 299 mg (1.94 mmol) of 4-(1-pyrrolidinylpiperidine) are refluxed in 1-methyl 2-pyrrolidinone (1 mL) at 105° C. for 12 hours to yield the crude product. Purification by silica gel chromatography (95:5 methylene chloride/methanol) gives 120 mg of 6-methoxy-4-[4-(pyridin-3-yloxy) phenylamino]-7-(4-pyrrolidin-1-yl-piperidin-1-yl)quinoline-3-carbonitrile as a yellow solid, mp 194-196° C.

reactant | 7-fluoro-6-methoxy-4-[4-(pyridin-3-yloxy)-phenylamino]-quinoline-3-carbonitrile | 0.39 mmol, 150 mg | FC1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=CC=C(C=C1)OC=1C=NC=CC1)OC | C22H15FN4O2
reactant | 1-methyl 2-pyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
product | 6-methoxy-4-[4-(pyridin-3-yloxy) phenylamino]-7-(4-pyrrolidin-1-yl-piperidin-1-yl)quinoline-3-carbonitrile | 120 mg | COC=1C=C2C(=C(C=NC2=CC1N1CCC(CC1)N1CCCC1)C#N)NC1=CC=C(C=C1)OC=1C=NC=CC1 | C31H32N6O2
